US04588719
2,2-Dimethyl-4-methoxyindanone
4-Hydroxy-indanone (25 g) is added portionwise to a stirred suspension of sodium hydride (40.1 g, 60% in mineral oil) and methyl iodide (62.4 g) in anhydrous THF (990 ml) under nitrogen and the mixture is stirred at RT overnight. The reaction mixture is quenched with H2O, washed with diethyl ether and the etheral layer is washed with 10% aq. NaHSO3 and H2O, dried, filtered, and evaporated. The residue is chromatographed (silica gel; eluent=hexane/EtOAC) affording the desired product as a solid.

reactant | 4-Hydroxy-indanone | 25 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | sodium hydride | 40.1 g | [H-].[Na+]
reactant | methyl iodide | 62.4 g | CI | CH3I
reactant | THF | 990 ml | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-4-methoxyindanone | CC1(C(C2=CC=CC(=C2C1)OC)=O)C | C12H14O2
